US06599890B1
A mixture of (2R,4R)-4-[2-benzyloxycarbamoyl-1-(4-methoxy-benzene-sulfonyl)-piperidine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester (500 mg, 0.81 mmol) and 5% palladium on barium sulfate (250 mg) in 10 mL of methanol was shaken under a 40 psi atmosphere of hydrogen gas for 1.5 hours. Filtration through nylon and concentration of the filtrate provided (2R,4R)-4-[2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-piperidine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester as a colorless solid, which was used in the subsequent step without purification.

reactant | (2R,4R)-4-[2-benzyloxycarbamoyl-1-(4-methoxy-benzene-sulfonyl)-piperidine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.81 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(NOCC1=CC=CC=C1)=O | C30H40N4O8S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 mL | CO | CH4O
catalyst | palladium on barium sulfate | 250 mg | [Pd] | Pd
product | (2R,4R)-4-[2-hydroxycarbamoyl-1-(4-methoxy-benzenesulfonyl)-piperidine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)[C@H]1C[C@@H](N(CC1)S(=O)(=O)C1=CC=C(C=C1)OC)C(NO)=O | C23H34N4O8S
